US09278944B2
(1) 1-(6-Methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)ethanone [REx(8-1)]
To a solution of 6-methyl-1H-pyrrolo[2,3-b]pyridine (500 mg) in dichloroethane (6 mL) were added aluminum chloride (1.09 g) and acetyl chloride (0.40 mL), and then the mixture was stirred at room temperature for 1.5 hours. The reaction solution was poured into aqueous saturated sodium hydrogen carbonate solution, and extracted with chloroform. The organic layer was washed with saturated saline, dried over magnesium sulfate, and then concentrated under reduced pressure. The resulting residue was triturated with isopropyl ether to 1-(6-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)ethanone [REx(8-1)] (481 mg) as a yellow powder.

reactant | 6-methyl-1H-pyrrolo[2,3-b]pyridine | 500 mg | CC1=CC=C2C(=N1)NC=C2 | C8H8N2
reactant | aluminum chloride | 1.09 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 0.40 mL | C(C)(=O)Cl | C2H3ClO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloroethane | 6 mL | ClC(C)Cl | C2H4Cl2
product | 1-(6-Methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)ethanone | CC1=CC=C2C(=N1)NC=C2C(C)=O | C10H10N2O
